US05840732
vi) Synthesis of 9-benzyl-7-(4-chlorobutyl)-3,4-dihydro-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione
To a suspension of 4.11 g (15 mmol) of 9-benzyl-3,4-dihydro-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione and 3.32 g (24 mmol) of potassium carbonate in 70 ml of N,N-dimethylformamide, 3.46 ml (60 mmol) of 1-bromo-4-chlorobutane was added at room temperature, followed by stirring at 60° C. for 2 hours and then at 100° C. for 3 hours. After cooling, the reaction mixture was concentrated to dryness. The residue was dissolved in dichloromethane-water; the organic layer was washed with water and dried. The oily substance obtained by distilling off the solvent was purified by column chromatography (eluent, n-hexane/ethyl acetate=5/1→2/1) to yield 4.96 g (90.6%, light yellow oily substance) of the desired product.

reactant | 9-benzyl-3,4-dihydro-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione | 15 mmol, 4.11 g | C(C1=CC=CC=C1)C=1C(NC(N2C1SCCC2)=O)=O | C14H14N2O2S
reactant | potassium carbonate | 24 mmol, 3.32 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-4-chlorobutane | 60 mmol, 3.46 ml | BrCCCCCl | C4H8BrCl
solvent | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | 9-benzyl-7-(4-chlorobutyl)-3,4-dihydro-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione | C(C1=CC=CC=C1)C=1C(N(C(N2C1SCCC2)=O)CCCCCl)=O | C18H21ClN2O2S
